US06531502B1
3,5-Dimethyl-4-methoxybenzaldehyde was condensed with 5-chloro-2-oxindole to give 0.3 g of 5-chloro-3-(4-methoxy-3,5-dimethylbenzylidene)-1,3-dihydroindol-2-one as a yellow-orange solid.

reactant | 3,5-Dimethyl-4-methoxybenzaldehyde | CC=1C=C(C=O)C=C(C1OC)C | C10H12O2
reactant | 5-chloro-2-oxindole | ClC=1C=C2CC(NC2=CC1)=O | C8H6ClNO
product | 5-chloro-3-(4-methoxy-3,5-dimethylbenzylidene)-1,3-dihydroindol-2-one | 0.3 g | ClC=1C=C2C(C(NC2=CC1)=O)=CC1=CC(=C(C(=C1)C)OC)C | C18H16ClNO2
